US07595405B2
To a solution of 3-Amino-5-(4-Methyl-2-oxo-2H-pyridin-1-yl)benzoic acid methyl ester (500 mg, 1.93 mmol) and NaN3 (233 g, 3.58 mmol) in AcOH was added HC(OEt)3 (1378.6 mg, 9.3 mmol) at room temperature. The reaction mixture was heated to reflux for 4 hours and then cooled to room temperature. The solvent was removed in vacuo and the residue was purified by silica-gel chromatography to give 3-(4-Methyl-2-oxo-2H-pyridin-1-yl)5-tetrazol-1-yl-benzoic acid methyl ester as a light yellow solid (602 mg, 100%). MS (M+H)=312.

reactant | 3-Amino-5-(4-Methyl-2-oxo-2H-pyridin-1-yl)benzoic acid methyl ester | 1.93 mmol, 500 mg | COC(C1=CC(=CC(=C1)N1C(C=C(C=C1)C)=O)N)=O | C14H14N2O3
reactant | NaN3 | 3.58 mmol, 233 g | [N-]=[N+]=[N-].[Na+]
reactant | HC(OEt)3 | 9.3 mmol, 1378.6 mg | C(OCC)(OCC)OCC | C7H16O3
solvent | AcOH | CC(=O)O | C2H4O2
product | 3-(4-Methyl-2-oxo-2H-pyridin-1-yl)5-tetrazol-1-yl-benzoic acid methyl ester | 602 mg, 100% | COC(C1=CC(=CC(=C1)N1N=NN=C1)N1C(C=C(C=C1)C)=O)=O | C15H13N5O3
